US04371644
bis{4-[3-(3-butyl-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)-2-hydroxypropoxy]phenyl}methane (Compound No. 351)
A mixture of 4.0 g of 3-butyl-8-(2,3-epoxypropyl)-7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione and 1.0 g of bis(p-hydroxyphenyl)methane in 5 ml of isopentyl alcohol with a catalytic amount of sodium hydride was refluxed for 10 hours. After completion of the reaction, the residue obtained by evaporating the solvent under reduced pressure from the reaction mixture was purified by column chromatography through silica gel eluted with a 1:1 by volume mixture of benzene and ethyl acetate, giving the desired Compound No. 351 in the form of white crystals melting at 202°-204° C.

reactant | 3-butyl-8-(2,3-epoxypropyl)-7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 4.0 g | C(CCC)N1C(NC2(C1=O)CC(N(C(C2)(C)C)CC2CO2)(C)C)=O | C18H31N3O3
reactant | bis(p-hydroxyphenyl)methane | 1.0 g | OC1=CC=C(C=C1)CC1=CC=C(C=C1)O | C13H12O2
reactant | sodium hydride | [H-].[Na+]
solvent | isopentyl alcohol | 5 ml | C(CC(C)C)O | C5H12O
product | bis{4-[3-(3-butyl-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)-2-hydroxypropoxy]phenyl}methane | C(CCC)N1C(NC2(C1=O)CC(N(C(C2)(C)C)CC(COC2=CC=C(C=C2)CC2=CC=C(C=C2)OCC(CN2C(CC1(C(N(C(N1)=O)CCCC)=O)CC2(C)C)(C)C)O)O)(C)C)=O | C49H74N6O8
